US08633126B2
Preparation of biphenyl-2,2′-diyl diethyl dicarbonate (ID-6):
To a round-bottom flask is charged biphenyl-2,2′-diol (7.45 g, 40 mmol) and pyridine (50 mL). The flask is immersed in an ice-water bath and ethyl chloroformate (9.48 mL, 100 mmol) is added dropwise. After gradually warming to room temperature, the mixture is stirred overnight. The volatiles are removed in vacuo, and the residue is suspended in 100 mL of ethyl acetate. After filtration, the filtrate is concentrated and purified by flash chromatography. The product is obtained as a colorless oil. Yield: 5.0 g; 1H NMR (500 MHz, CDCl3, ppm) δ 7.23-7.44 (m, 8H), 4.13 (q, 4H), 1.19 (t, 6H).

reactant | biphenyl-2,2′-diol | 40 mmol, 7.45 g | C=1(C(=CC=CC1)O)C=1C(=CC=CC1)O | C12H10O2
reactant | ethyl chloroformate | 100 mmol, 9.48 mL | ClC(=O)OCC | C3H5ClO2
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | biphenyl-2,2′-diyl diethyl dicarbonate | C(OC1=C(C=CC=C1)C1=C(C=CC=C1)OC(OCC)=O)(OCC)=O | C18H18O6
